US08486967B2
c) [8-(3,5-Bis-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-fluoro-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
A degassed solution of palladium(II) acetate (2.73 mg, 12.2 μmol) and 2-(dicyclohexylphosphino)biphenyl (8.52 mg, 24.3 μmol) in dioxane (1 mL) was stirred for 10 minutes at room temperature, then added to a solution of 8-(3,5-bis(trifluoromethyl)phenyl)-N-(3-fluoropiperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine (68 mg, 152 μmol), 5-chloro-3-methyl-1,2,4-thiadiazole (24.5 mg, 182 μmol) and sodium tert-butoxide (21.9 mg, 228 μmol) in dioxane (2 mL). Through the solution was bubbled argon for 5 minutes, then heated to 150° C. in the microwave for 45 minutes. Again a degassed solution of palladium(II) acetate (3.1 mg, 13.8 mmol) and 2-(dicyclohexylphosphino)biphenyl (9.69 mg, 27.6 μmol) in dioxane (1 mL) was added, followed by 5-chloro-3-methyl-1,2,4-thiadiazole (24.5 mg, 182 μmol) and heated for further 45 minutes to 150° C. The crude material was purified by flash chromatography (silica gel, 70 g, 0% to 15% MeOH/NH4OH (9:1) in dichloromethane). The title compound was obtained as colorless oil (30 mg, 36%) as a mixture of cis- and trans-isomers.

reactant | 2-(dicyclohexylphosphino)biphenyl | 24.3 μmol, 8.52 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 8-(3,5-bis(trifluoromethyl)phenyl)-N-(3-fluoropiperidin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-amine | 152 μmol, 68 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2C(CNCC2)F)(F)F | C19H16F7N5
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 182 μmol, 24.5 mg | ClC1=NC(=NS1)C | C3H3ClN2S
reactant | sodium tert-butoxide | 228 μmol, 21.9 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dicyclohexylphosphino)biphenyl | 27.6 μmol, 9.69 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 5-chloro-3-methyl-1,2,4-thiadiazole | 182 μmol, 24.5 mg | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 12.2 μmol, 2.73 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 13.8 mmol, 3.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [8-(3,5-Bis-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-fluoro-1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2C(CN(CC2)C2=NC(=NS2)C)F)(F)F | C22H18F7N7S
